US07834051B2
4-[(6S,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-methoxybenzonitrile
To a solution of 4-[(6S,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-methoxybenzonitrile (320 mg) in tetrahydrofuran (8 mL)-methanol (8 mL) was added 6 mol/L hydrochloric acid (6 mL), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=30/1→1/3) to give the title compound as a colorless solid (yield: 49.7 mg, 22%).

reactant | 4-[(6S,7R)-7-(tert-butyldimethylsilyloxy)-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-methoxybenzonitrile | 320 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](N(C(C12CC2)=O)C2=CC(=C(C#N)C=C2)OC)C | C21H30N2O3Si
reactant | methanol | 8 mL | CO | CH4O
reactant | hydrochloric acid | 6 mol/L, 6 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4-[(6S,7R)-7-hydroxy-6-methyl-4-oxo-5-azaspiro[2.4]hept-5-yl]-2-methoxybenzonitrile | yield: 49.7 mg, 22% | O[C@H]1[C@@H](N(C(C12CC2)=O)C2=CC(=C(C#N)C=C2)OC)C | C15H16N2O3
